US07651630B2
122 g of anhydrous potassium carbonate was added to a 2-butanone (600 mL) solution containing 77.2 g of 2,3-difluorophenol, and then 90.0 mL of 1-bromo-2-butene (E/Z ratio=92/8) was added thereto. The solution was heated under reflux for 4 hours, then cooled to room temperature, and water was added dropwise thereto to stop the reaction. Extraction was performed with hexane (three times), and the collected organic phase was washed with 3M hydrochloric acid, water, saturated aqueous solution of sodium hydrogencarbonate, and saturated saline in this order, and then dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure (155 to 160° C., 50 kPa), to thereby obtain 106 g of 1-(2-butenoxy)-2,3-difluorobenzene in the form of a colorless and transparent liquid (E/Z ratio=82/18 according to 1H-NM analysis).

reactant | potassium carbonate | 122 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-butanone | 600 mL | CC(CC)=O | C4H8O
reactant | 2,3-difluorophenol | 77.2 g | FC1=C(C=CC=C1F)O | C6H4F2O
reactant | 1-bromo-2-butene | 90.0 mL | BrCC=CC | C4H7Br
solvent | water | O | H2O
product | 1-(2-butenoxy)-2,3-difluorobenzene | 106 g | C(C=CC)OC1=C(C(=CC=C1)F)F | C10H10F2O
